US07517994B2
Methyl 2-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate was prepared from methyl 2-chloro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate and 2-fluoro-4-(methylthio)benzenamine as described in Step C of Example 153.

reactant | methyl 2-chloro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | ClC=1N(C(C=CC1C(=O)OC)=O)C | C8H8ClNO3
reactant | 2-fluoro-4-(methylthio)benzenamine | FC1=C(C=CC(=C1)SC)N | C7H8FNS
product | Methyl 2-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | FC1=C(C=CC(=C1)SC)NC=1N(C(C=CC1C(=O)OC)=O)C | C15H15FN2O3S
